US06548667B2
Preparation of (2R)-3-methyl-2-[(2-propylthiobenzoxazol-6-sulfonyl)amino]butanoic Acid
(2R)-3-methyl-2-[(2-propylthiobenzthiazol-6-sulfonyl)amino]butanoic acid methylester (0.19 g, 0.48 mmol) was dissolved in THF/H2O (2 mL/2 mL), and LiOH (0.10 g, 5 equi.) was added. After reflux for 6 hours, the reaction solution was distilled under reduced pressure and treated with 1N HCl. The product was extracted with ethylacetate (10 mL). The separated organic phase was washed with NaCl solution, dried over MgSO4, distilled under reduced pressure and dried under vacuum to prepare the titled compound, (2R)-3-methyl-2-[(2-propylthiobenzoxazol-6-sulfonyl)amino]butanoic acid (0.14 g, 77%).

reactant | (2R)-3-methyl-2-[(2-propylthiobenzthiazol-6-sulfonyl)amino]butanoic acid methylester | 0.48 mmol, 0.19 g | COC([C@@H](C(C)C)NS(=O)(=O)C1=CC2=C(N=C(S2)SCCC)C=C1)=O | C16H22N2O4S3
reactant | LiOH | 0.10 g | [Li+].[OH-]
solvent | THF H2O | 2 mL | C1CCOC1.O
product | (2R)-3-methyl-2-[(2-propylthiobenzoxazol-6-sulfonyl)amino]butanoic Acid | CC([C@H](C(=O)O)NS(=O)(=O)C1=CC2=C(N=C(O2)SCCC)C=C1)C | C15H20N2O5S2
